US04933104
1,4-Diamino-2-butylanthraquinone (0.30 g, 0.001 mole) and p-butylbenzoic acid chloride (0.48 g, 0.0024 mole) are refluxed in 20 ml chlorobenzene for 0.5 hrs. The reaction mass is cooled to 20° C. and chromatographed with chloroform on Silica gel. 1,4-Bis(4-butylbenzamido)-2-butylanthraquinone is obtained in amount 0.36 g (60%). Found, %: C 76.74, H 8.31, N 4.53; C40H52N2O4. Calculated, %: C 76.89, H 8.39, N 4.48; λmax =475 nm, S=-0.22. M.p.=180°-181.3° C.

reactant | 1,4-Diamino-2-butylanthraquinone | 0.001 mole, 0.30 g | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)CCCC | C18H18N2O2
reactant | p-butylbenzoic acid chloride | 0.0024 mole, 0.48 g | C(CCC)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | chlorobenzene | 20 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1,4-Bis(4-butylbenzamido)-2-butylanthraquinone | C(CCC)C1=CC=C(C(=O)NC2=C(C=C(C=3C(C4=CC=CC=C4C(C23)=O)=O)NC(C2=CC=C(C=C2)CCCC)=O)CCCC)C=C1 | C40H42N2O4
